US05306830
Commercially available 3-bromosalicylaldehyde (0.5 g; 2.5 mmol), di-n-butylammonium chloride (0.2 g; 1.2 mmol) and 2-nitroethanol (0.36 g; 4.0 mmol) were refluxed for 8 hours in i-pentylacetate with a Dean-Stark apparatus under nitrogen atmosphere. The solvent was evaporated and the product was dissolved in dichloromethane (15 ml) and cyanoborohydride (0.5 g; 8.1 mmol) in methanol (15 ml) was added. The mixture was stirred for 30 minutes at room temperature. Water was added and the mixture extracted with dichloromethane. The phase were separated and the organic layer was dried (MgSO4). The solvent was evaporated yielding 400 mg (63%) of 8-bromo-3-nitrochroman as an oil.

reactant | 3-bromosalicylaldehyde | 2.5 mmol, 0.5 g | BrC1=C(C(C=O)=CC=C1)O | C7H5BrO2
reactant | di-n-butylammonium chloride | 1.2 mmol, 0.2 g | [Cl-].C(CCC)[NH2+]CCCC
reactant | 2-nitroethanol | 4.0 mmol, 0.36 g | [N+](=O)([O-])CCO | C2H5NO3
reactant | cyanoborohydride | 8.1 mmol, 0.5 g | C(#N)[BH3-]
solvent | i-pentylacetate | C(CC(C)C)OC(C)=O | C7H14O2
solvent | methanol | 15 ml | CO | CH4O
solvent | Water | O | H2O
product | 8-bromo-3-nitrochroman | 400 mg, 63% | BrC=1C=CC=C2CC(COC12)[N+](=O)[O-] | C9H8BrNO3
